US08580399B2
Into a mixture of sodium tert-butoxide (11.69 g, 122 mmol), triphenylphosphine (2.66 g, 10.14 mmol), palladium acetate (1.138 g, 5.07 mmol), 2,3-dichloropyridine (15 g, 101 mmol) and aniline (10.18 ml, 111 mmol) was added o-xylene (100 mL). The solution was degased by vacuum-nitrogen cycles before heating at 120° C. in the absence of light for 3 hours and cooled to room temperature. In another flask, tricyclohexylphosphine (16.04 ml, 10.14 mmol), palladium acetate (1.138 g, 5.07 mmol), and DBU (30.6 ml, 203 mmol) were dissolved in dimethylacetamide (100 ml). This solution was degassed by vacuum/nitrogen cycles and transferred to the above reaction mixture. The resultant reaction mixture was stirred at 150° C. for another 12 hours, cooled to room temperature and quenched with water. The aqueous phase was extracted with ethyl acetate. The combined organic phase was washed with aqueous LiCl (10 wt %) solution, dried over MgSO4. Upon evaporation off the solvent, the black residue was precipitated from dichloromethane into hexane. The crude product was purified by recrystallization from toluene to yield 9H-pyrido[2,3-b]indole as a yellowish white product (9.0 g).

reactant | sodium tert-butoxide | 122 mmol, 11.69 g | CC(C)([O-])C.[Na+]
reactant | triphenylphosphine | 10.14 mmol, 2.66 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2,3-dichloropyridine | 101 mmol, 15 g | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | aniline | 111 mmol, 10.18 ml | NC1=CC=CC=C1 | C6H7N
reactant | tricyclohexylphosphine | 10.14 mmol, 16.04 ml | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | DBU | 203 mmol, 30.6 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dimethylacetamide | 100 ml | CC(=O)N(C)C | C4H9NO
catalyst | palladium acetate | 5.07 mmol, 1.138 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium acetate | 5.07 mmol, 1.138 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | o-xylene | 100 mL | CC=1C=CC=CC1C | C8H10
product | 9H-pyrido[2,3-b]indole | N1=CC=CC2=C1NC1=CC=CC=C21 | C11H8N2
